US06583135B2
Preparation of tert-Butyl 7,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 0.85 g, 21 mmol) was added to a solution of tert-butyl 7,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (5.0 g, 14 mmol) in DMF (75 mL). After 25 min, ethyl bromoacetate (3.1 mL, 28 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 3 h and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography with heptane/EtOAc (3:1) to give 6.0 g (96%) of a white foam: mp 118.5-119.5° C.; IR (diffuse reflectance) 2976, 1747, 1674, 1477, 1457, 1420, 1405, 1370, 1366, 1344, 1254, 1200, 1165, 1111, 930 cm ; MS (EI) m/z 440 (M+), 386, 384, 339, 310, 305, 300, 298, 224, 57, 56; Anal. Calcd for C21H26Cl2N2O4: C, 57.15; H, 5.94; N, 6.35; found: C, 57.27; H, 6.01; N, 6.22.

reactant | Sodium hydride | 21 mmol, 0.85 g | [H-].[Na+]
reactant | tert-butyl 7,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 14 mmol, 5.0 g | ClC1=CC=C(C=2C3=C(NC12)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | ethyl bromoacetate | 28 mmol, 3.1 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 7,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 6.0 g, 96% | ClC1=CC=C(C=2C3=C(N(C12)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
